* Z:\home\danieltyukov\workspace\tud\tud-microsystems-design-and-modeling\unit1-cross-domain-modeling\thermal_example.asc
R2 N002 N001 0.02
C1 N002 0 1.05
R1 N004 N003 0.04
C2 N004 0 2.1
V2 N003 0 PULSE(0 1 0 0 0 100 100 1)
V1 N001 0 PULSE(0 1 0 0 0 100 100 1)
.tran 0 0.5 0 0.05
.backanno
.end
